US05512574
Hexanethiol (4.7 g, 40 mmole) was added to a slurry of sodium hydride (0.96 g) in THF (60 ml), and the mixture stirred for 30 minutes. The slurry was cooled to -5° C. and a solution of 2,3-dichloropyrazine (6 g) added. The mixture was stirred for 1.5 hours, filtered and the filtrate evaporated. The residue was purified by column chromatography on silica gel using varying concentrations of methanol in chloroform. Fractions containing the desired product were evaporated, yielding 2-chloro-3-hexylsulfanyl pyrazine. as an oil.

reactant | Hexanethiol | 40 mmole, 4.7 g | C(CCCCC)S | C6H14S
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 2,3-dichloropyrazine | 6 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-chloro-3-hexylsulfanyl pyrazine | ClC1=NC=CN=C1SCCCCCC | C10H15ClN2S
